US04434101
A mixture of 0.43 g (1.46 mmoles) of (Z)-1-iodo-3-dodecene and 0.38 g (1.45 mmoles) of triphenylphosphine was heated at 90° C. for 3 hrs. under argon to produce 0.81 g of [(Z)-3-dodecen-1-yl]triphenylphosphonium iodide. This material was used without further purification.

reactant | (Z)-1-iodo-3-dodecene | 1.46 mmoles, 0.43 g | ICC\C=C/CCCCCCCC | C12H23I
reactant | triphenylphosphine | 1.45 mmoles, 0.38 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | [(Z)-3-dodecen-1-yl]triphenylphosphonium iodide | 0.81 g | [I-].C(C\C=C/CCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H38P.HI/c1-2-3-4-5-6-7-8-9-10-20-27-31(28-21-14-11-15-22-28,29-23-16-12-17-24-29)30-25-18-13-19-26-30;/h9-19,21-26H,2-8,20,27H2,1H3;1H/q+1;/p-1/b10-9-;
